US07569518B2
17.03 g of 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(2,4,6-trifluorophenyl)-2(5H)-furanone, 2.64 g of hydrazine monohydrate and 240 ml of 1-butanol were mixed, and stirred at 90° C. for 3 hours. Then, the reaction mixture was cooled to 0° C. The resulting solid was collected by filtration. The collected solid was washed using hexane and t-butyl methyl ether, and dried under reduced pressure to obtain 6.99 g of 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one.

reactant | 4-(4-chlorophenyl)-5-hydroxy-5-methyl-3-(2,4,6-trifluorophenyl)-2(5H)-furanone | 17.03 g | ClC1=CC=C(C=C1)C1=C(C(OC1(C)O)=O)C1=C(C=C(C=C1F)F)F | C17H10ClF3O3
reactant | hydrazine monohydrate | 2.64 g | O.NN
solvent | 1-butanol | 240 ml | C(CCC)O | C4H10O
product | 5-(4-chlorophenyl)-6-methyl-4-(2,4,6-trifluorophenyl)-2H-pyridazin-3-one | 6.99 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1C)=O)C1=C(C=C(C=C1F)F)F | C17H10ClF3N2O
